US07786165B2
tert-butyl 3-{4-[({4′-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate
To a solution of tert-butyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl) propanoate (0.60 g, 0.95 mmol), tetrahydro-2H-thiopyran-4-ylmethanol (0.14 g, 1.05 mmol) and triphenylphosphine (0.28 g, 1.05 mmol) in tetrahydrofuran (5 mL) was added diethyl azodicarboxylate (40% toluene solution, 0.56 mL, 1.24 mmol) under stirring at room temperature, and the mixture was stirred for 2 hr. To the reaction mixture were added reagents (tetrahydro-2H-thiopyran-4-ylmethanol, triphenylphosphine and diethyl azodicarboxylate) in the same amount as mentioned above, and the mixture was further stirred for 24 hr. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=3/2) to give an oil (0.23 g). To a solution of the obtained oil in ethyl acetate (2 mL) was added m-chloroperbenzoic acid (70%, 0.16 g, 0.64 mmol) under stirring at 0° C., and the mixture was stirred at room temperature for 3 days. The reaction mixture was washed with 1 M aqueous sodium hydroxide solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=3/2) to give tert-butyl 3-(4-{({4′-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate (0.13 g, yield 17%, 2 steps) as a pale-yellow oil. To a solution of the obtained tert-butyl 3-(4-{({4′-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate (0.13 g, 0.16 mmol) and mercaptoacetic acid (0.03 mL, 0.49 mmol) in N,N-dimethylformamide (2 mL) was added lithium hydroxide monohydrate (0.04 g, 0.98 mmol) under stirring at room temperature, and the mixture was stirred overnight at the same temperature. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=1/1) to give the title compound (0.08 g, yield 85%) as colorless crystals.

reactant | tert-butyl 3-(4-{({4′-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 0.16 mmol, 0.13 g | O=S1(CCC(CC1)COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CN(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)=O | C40H45FN2O9S2
reactant | mercaptoacetic acid | 0.49 mmol, 0.03 mL | SCC(=O)O | C2H4O2S
reactant | lithium hydroxide monohydrate | 0.98 mmol, 0.04 g | O.[OH-].[Li+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-{4-[({4′-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate | 0.08 g, yield 85% | O=S1(CCC(CC1)COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)C)=O | C34H42FNO5S
